US07495103B2
To a solution of 2-admantyl-4-methyl-5-nitrophenyl ethyl carbonate (378 mg, 1.05 mmol) in CH2Cl2 (5 mL) was added piperidine (1.0 mL). The solution was stirred at room temperature for 1 h, adsorbed onto silica gel under reduced pressure and purified by flash chromatography on silica gel (0-15%, EtOAc-Hexanes) to provide 2-admantyl-4-methyl-5-nitrophenol (231 mg, 77%).

reactant | 2-admantyl-4-methyl-5-nitrophenyl ethyl carbonate | 1.05 mmol, 378 mg | C(OC1=C(C=C(C(=C1)[N+](=O)[O-])C)C1C2CC3CC(CC1C3)C2)(OCC)=O | C20H25NO5
reactant | piperidine | 1.0 mL | N1CCCCC1 | C5H11N
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | 2-admantyl-4-methyl-5-nitrophenol | 231 mg, 77% | C12C(C3CC(CC(C1)C3)C2)C2=C(C=C(C(=C2)C)[N+](=O)[O-])O | C17H21NO3
